Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
post-menopausal bleeding, endometrial cancer
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral salpingo-oophorectomy 
with cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ G3P3 who had 3 episodes of postmenopausal 
bleeding in ___. These episodes lasted for 1 day and 
required ___ pads. Workup including a pelvic ultrasound on 
___ showed: 
The uterus is retroverted and measures 7.5 x 4.8 x 6.1 cm. 
Multiple uterine fibroids are present.  The largest fibroid is 
located on the right measuring 3.1 x 3.1 x 3.2 cm.  A few 
smaller fibroids may have submucosal extent.  The endometrium is 
heterogenous with cystic spaces and thickened measuring 11 mm. 
The ovaries are not visualized.  There are no adnexal masses 
identified. There is no free fluid. 

She underwent an endometrial biopsy on ___ which showed 
endometrial adenocarcinoma, endomtrioid type, FIGO grade 1 with 
villo-glandular architecture noted. 

ROS: Denied vaginal discharge or bleeding. Denied fever, chills,
headache, weight gain, constipation, appetite

 
Past Medical History:
PGynHx: 
LMP/age of menopause: ___ years old, ___ years of HRT use 
(Prempro)
Periods prior: every 30 days, lasts ___ days, regular flow
Last pap: ___, normal
STDs: denies
GYN procedures: denies

POBHx: G3P3
SVD: x3

PMHx: 
-hyperlipidemia
-hypertension
-diabetes, Type II
-depression
-stress urinary incontinence

PSHx:
- hip replacement (___)
- laparoscopic cholecystectomy (___)
- right cataract
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On day of discharge:
VS: T 98.9, HR 100 (82-100), BP 138/82, RR 18, O2 97 RA
Gen: well-appearing, NAD
CV: RRR
Pulm: CTAB
Abd: soft, minimally distended, mildly tender to palpation, 
appropriate, no rebound or guarding, incisions c/d/I with 
steri-strips with minimal staining
Pelvic: minimal spotting
Ext: no calf tenderness, no edema, pboos
 
Pertinent Results:
___ 09:15AM   WBC-7.4 RBC-4.05 HGB-11.9 HCT-36.5 MCV-90 
MCH-29.4 MCHC-32.6 RDW-14.5 RDWSD-47.7*
___ 09:15AM   PLT COUNT-373
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy with cystoscopy. Please see the operative 
report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with acetaminophen and 
IV Dilaudid. Her diet was advanced without difficulty and she 
was transitioned to PO oxycodone, acetaminophen and ibuprofen 
(pain meds). On post-operative day #1, her urine output was 
adequate so her Foley catheter was removed and she voided 
spontaneously.

For her hypertension, hyperlipidemia and depression, she was 
continued on her home medications.  For her T2DM, her metformin 
was held until she was tolerating a regular diet; her 
fingersticks were monitored and remained within good range. 

By the afternoon of post-operative day #1, she was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY  
2. Atorvastatin 10 mg PO QPM  
3. Duloxetine 30 mg PO DAILY  
4. Losartan Potassium 50 mg PO DAILY  
5. Vitamin B12
6. Metformin 500mg BID
7. Minocycline 100mg QD
8. Oxybutynin ER 50mg QD
9. Biotin
10. Calcium carbonate
11. Fish oil
12. Loratadine
13. Vitamin B complex
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*1 
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
do not drink alcohol or drive while taking 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4-6h Disp 
#*30 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  DULoxetine 30 mg PO DAILY  
8.  Losartan Potassium 50 mg PO DAILY  

She was also advised she could restart the following:
9.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
10.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*1 
11.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
12.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
do not drink alcohol or drive while taking 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4-6h Disp 
#*30 Tablet Refills:*0 
13.  Aspirin 81 mg PO DAILY  
14.  Atorvastatin 10 mg PO QPM  
15.  DULoxetine 30 mg PO DAILY  
16.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grade 1 endometrial cancer *Final pathology pending*

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
 
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.   

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on. If they are still on after ___ 
days from surgery, you may remove them.    

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___